US05824691
A mixture of methyl 3-(2-carboxyethyl)-5-(pyrrol-1-yl)benzoate (1.5 g), diphenylphosphoryl azide (1.25 ml) and triethylamine (0.8 ml) in tert-butyl alcohol (20 ml) was refluxed for 7 hours. After being cooled to room temperature, the reaction mixture was poured into a mixture of ethyl acetate and water. The organic layer was successively washed with 1N-hydrochloric acid, water and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with chloroform. The eluted fractions containing the desired product were collected and evaporated in vacuo to give methyl 3-(2-tert-butoxycarbonylaminoethyl-5-(pyrrol-1-yl)benzoate (0.89 g).

reactant | methyl 3-(2-carboxyethyl)-5-(pyrrol-1-yl)benzoate | 1.5 g | C(=O)(O)CCC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C15H15NO4
reactant | diphenylphosphoryl azide | 1.25 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tert-butyl alcohol | 20 ml | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | 2-tert-butoxycarbonylaminoethyl-5-(pyrrol-1-yl)benzoate | 0.89 g | C(C)(C)(C)OC(=O)NCCOC(C1=CC=CC(=C1)N1C=CC=C1)=O | C18H22N2O4
